US06774248B2
2-Hydroxy-3-iodo-5-methoxy-benzaldehyde 1
To a solution of 2-hydroxy-5-methoxy-benzaldehyde (15.97 g, 104.9 mmole) in 375 mL dichloromethane at −15° C. was added tetraethylammonium diacetoxyiodate (48.06 g, 128.1 mmole) over 15 minutes. After stirring overnight, an additional amount of tetraethylammonium diacetoxyiodate (46.93 g, 125.1 mmole) was added over 15 minutes. The reaction was stirred for an additional 12 hours, concentrated, and added to 2N HCl. The mixture was extracted into ethyl acetate and the combined organic phases were washed with saturated sodium bicarbonate, water, brine, and dried with magnesium sulfate. The organic phases were concentrated in vacuo and the residue was loaded on to silica gel and chromatographed with silica gel (hexanes:ethyl acetate, 9:1) to afford 3.47 g (11.9%) of iodide as a yellow solid: Mp=103-105° C.; 1H NMR (DMSO-d6) δ 11.3 (s, 1 H), 9.73 (s, 1 H), 7.60 (d, 1 H, J=3.0 Hz,), 7.07 (d, 1 H, J=3.1 Hz), 3.83 (s, 3 H).

reactant | 2-hydroxy-5-methoxy-benzaldehyde | 104.9 mmole, 15.97 g | OC1=C(C=O)C=C(C=C1)OC | C8H8O3
reactant | tetraethylammonium diacetoxyiodate | 128.1 mmole, 48.06 g | C(C)(=O)OI(=O)(=O)([O-])OC(C)=O.C(C)[N+](CC)(CC)CC
reactant | tetraethylammonium diacetoxyiodate | 125.1 mmole, 46.93 g | C(C)(=O)OI(=O)(=O)([O-])OC(C)=O.C(C)[N+](CC)(CC)CC
solvent | dichloromethane | 375 mL | ClCCl | CH2Cl2
product | 2-Hydroxy-3-iodo-5-methoxy-benzaldehyde | 3.47 g, 11.9% | OC1=C(C=O)C=C(C=C1I)OC | C8H7IO3
